US05455351
B. Ethyl 2-(4-Morpholinyl)thiazole-4-carboxylate
A mixture of 1.85 g (12.7 mmol) of 4-((amino)thiocarbonyl)morpholine, 1.59 ml (12.7 mmol) of ethyl bromopyruvate, and excess MgSO4 in 50 ml of acetone was heated at reflux for 2 h. The resulting mixture was allowed to cool, filtered, and concentrated in vacuo. The residue was taken up in chloroform, washed with aqueous NaHCO3, dried over Na2SO4, and concentrated. Silica gel chromatography using 1% methanol in chloroform provided 1.7 g (55%) of the desired compound, Rf 0.70 (ethyl acetate). Mass spectrum: (M+H)+ =243.

reactant | 4-((amino)thiocarbonyl)morpholine | 12.7 mmol, 1.85 g | NC(=S)N1CCOCC1 | C5H10N2OS
reactant | ethyl bromopyruvate | 12.7 mmol, 1.59 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Ethyl 2-(4-Morpholinyl)thiazole-4-carboxylate | 1.7 g, 55% | N1(CCOCC1)C=1SC=C(N1)C(=O)OCC | C10H14N2O3S
